US08957093B2
Step 1: tert-Butyl 4′-((5-((1-phenylpropyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate
The title compound was prepared following the same protocol as described in Step 8, Example 1, using the 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-1H-indole-5-carboxylic acid instead of the 1-((2′-(tert-Butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid and the 1-phenylpropan-1-amine instead of the (S)-1-(4-bromophenyl)ethanamine.

reactant | 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C=CC2=CC(=CC=C12)C(=O)O | C27H25NO4
reactant | 1-phenylpropan-1-amine | C1(=CC=CC=C1)C(CC)N | C9H13N
product | tert-Butyl 4′-((5-((1-phenylpropyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate | C1(=CC=CC=C1)C(CC)NC(=O)C=1C=C2C=CN(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C36H36N2O3
